### PR TITLE
[Merged by Bors] - feat(Data/Nat/Factorization/Basic): add mul_factorization_le

### PR DESCRIPTION
**Pull request by b-mehta**
Give a mildly tighter upper bound compared to `factorization_lt`

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by JX-Mo** [comment]
Can you give a proof without adding import?

**Comment by b-mehta** [comment]
Yes but it requires duplicating the statement of Bernoulli's inequality for Nat, which is very likely not what we want to do. The import here is relatively small (it doesn't trigger the large-import tag, for instance).

**Comment by JX-Mo** [comment]
You don't need to copy the general Bernoulli's inequality proof word by word. 
```
theorem sub_one_mul_factorization_lt {n p : ℕ} (hn : n ≠ 0) :
    (p - 1) * n.factorization p < n := by
  by_cases h : n.factorization p = 0
  · simpa [h] using Nat.pos_of_ne_zero hn
  have hp : 1 < p := by rcases p with _ | _ | p <;> simp_all
  calc
    _ < p * n.factorization p := (Nat.mul_lt_mul_right (Nat.pos_of_ne_zero h)).2 (by omega)
    _ ≤ p ^ n.factorization p := Nat.mul_le_pow (by omega) _
    _ ≤ n := Nat.ordProj_le p hn
```

**Comment by b-mehta** [comment]
Sure, but it's not clear that the longer proof is worth it given how small the import change is. Let's see what other reviewers think

**Comment by b-mehta** [comment]
Ah, but that AI proof gives me an idea for a better thing to have in this PR

File: Mathlib/Data/Nat/Factorization/Basic.lean [hunk 1]
```diff
@@ -134,6 +134,15 @@ theorem factorization_lt {n : ℕ} (p : ℕ) (hn : n ≠ 0) : n.factorization p
       Nat.lt_pow_self pp.one_lt
   · simpa only [factorization_eq_zero_of_not_prime n pp] using! hn.bot_lt
 
+/-- An upper bound on `n.factorization p` -/
+theorem mul_factorization_le {n p : ℕ} :
+    p * n.factorization p ≤ n := by
```
Comment (b-mehta) [inline Mathlib/Data/Nat/Factorization/Basic.lean]:
```suggestion
theorem mul_factorization_le {n p : ℕ} : p * n.factorization p ≤ n := by
```

File: Mathlib/Data/Nat/Factorization/Basic.lean [hunk 2]
```diff
@@ -134,6 +134,14 @@ theorem factorization_lt {n : ℕ} (p : ℕ) (hn : n ≠ 0) : n.factorization p
       Nat.lt_pow_self pp.one_lt
   · simpa only [factorization_eq_zero_of_not_prime n pp] using! hn.bot_lt
 
+/-- An upper bound on `n.factorization p` -/
+theorem mul_factorization_le {n p : ℕ} : p * n.factorization p ≤ n := by
```
Comment (SnirBroshi) [inline Mathlib/Data/Nat/Factorization/Basic.lean:138]: Can you generalize to `p * padicValNat p n ≤ n`?
The same proof works but with `ordProj_le` replaced with either
```
Nat.le_of_dvd hn.pos pow_padicValNat_dvd
```
or
```
Nat.pow_le_of_le_log hn <| padicValNat_le_nat_log n
```
Then we could have `n.factorization p ≤ padicValNat p n` by `dsimp [Nat.factorization]; split_ifs <;> simp`, and chain them to get this bound.

Comment (b-mehta) [reply Mathlib/Data/Nat/Factorization/Basic.lean:138]: Annoyingly to do the chain, I need to add an import as well. I'll try it and see how bad it is. 
Also if the deduplication around these things finally happens then maybe the situation here will change... we'll see!

Comment (SnirBroshi) [reply Mathlib/Data/Nat/Factorization/Basic.lean:138]: The chain should be `grw [factorization_le_padicValNat, mul_padicValNat_le]` which works without extra imports

Comment (b-mehta) [reply Mathlib/Data/Nat/Factorization/Basic.lean:138]: Ah, don't need the import if I do your first idea. Nice :)

Comment (b-mehta) [reply Mathlib/Data/Nat/Factorization/Basic.lean:138]: Oh I made the commit before seeing your message - yeah that's exactly what I did. But the problem was that `padicValNat_le_nat_log` only exists in PadicVal/Basic, which imports Factorization/Basic, so the `mul_padicValNat_le` proof wouldn't have worked. But with the `le_of_dvd` one it's fine!

**Review by SnirBroshi — APPROVED** [review]
Cool, thanks!

File: Mathlib/Data/Nat/Factorization/Basic.lean [hunk 3]
```diff
@@ -134,6 +134,10 @@ theorem factorization_lt {n : ℕ} (p : ℕ) (hn : n ≠ 0) : n.factorization p
       Nat.lt_pow_self pp.one_lt
   · simpa only [factorization_eq_zero_of_not_prime n pp] using! hn.bot_lt
 
+/-- An upper bound on `n.factorization p` -/
```
Comment (b-mehta) [inline Mathlib/Data/Nat/Factorization/Basic.lean]:
```suggestion
/-- A weak upper bound on `n.factorization p` -/
```

File: Mathlib/Data/Nat/Factorization/Defs.lean [hunk 4]
```diff
@@ -58,6 +58,10 @@ def factorization (n : ℕ) : ℕ →₀ ℕ where
 theorem factorization_def (n : ℕ) {p : ℕ} (pp : p.Prime) : n.factorization p = padicValNat p n := by
   simpa [factorization] using absurd pp
 
+/-- The multiplicity `n.factorization p` is at most the `p`-adic valuation of `n`. -/
```
Comment (b-mehta) [inline Mathlib/Data/Nat/Factorization/Defs.lean]:
```suggestion
```

File: Mathlib/NumberTheory/Padics/PadicVal/Defs.lean [hunk 5]
```diff
@@ -100,3 +100,11 @@ theorem le_padicValNat_iff_replicate_subperm_primeFactorsList {a b : ℕ} {n : 
     Nat.finiteMultiplicity_iff.2 ⟨ha.ne_one, Nat.pos_of_ne_zero hb⟩
       |>.emultiplicity_eq_multiplicity, ← padicValNat_def' ha.ne_one hb,
     ENat.natCast_le_natCast]
+
+/-- An upper bound on `padicValNat p n`. -/
```
Comment (b-mehta) [inline Mathlib/NumberTheory/Padics/PadicVal/Defs.lean]:
```suggestion
/-- A weak upper bound on `padicValNat p n`. -/
```

**Comment by ocfnash** [comment]
Thanks both: nice that we didn't need to change the imports :-)

bors merge
